// Point Netlist Generated on: Apr 20 22:37:12 2024
// Generated for: spectre
// Design Netlist Generated on: Apr 15 16:19:32 2024
// Design library name: lab2024
// Design cell name: tb_ycircuitcustom
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/eda/cadence/ams/4.10/spectre/c35/soac/soac.scs"
parameters temperature=27
include "/eda/cadence/ams/4.10/spectre/c35/soac/processOption.scs"
include "/eda/cadence/ams/4.10/spectre/c35/soac/cmos53.scs" section=cmostm
include "/eda/cadence/ams/4.10/spectre/c35/soac/res.scs" section=restm
include "/eda/cadence/ams/4.10/spectre/c35/soac/cap.scs" section=captm
include "/eda/cadence/ams/4.10/spectre/c35/soac/bip.scs" section=biptm
include "/eda/cadence/ams/4.10/spectre/c35/soac/ind.scs" section=indtm
include "/eda/cadence/ams/4.10/spectre/c35/soac/esddiode.scs" section=esddiodetm

// Library name: lab2024
// Cell name: ycircuitcustom
// View name: schematic
subckt ycircuitcustom A B C D out
parameters Wp=1u Wn=1u
    MPD (out D vdd! vdd!) modp w=Wp/1 l=0.35u \
        as=(8.5e-07*Wp/1*(2-fmod(1,2))+int((1-1)/2)*2*5e-07*Wp/1)/1 \
        ad=(8.5e-07*Wp/1*fmod(1,2)+int(1/2)*2*5e-07*Wp/1)/1 \
        ps=((2*8.5e-07+Wp/1)*(2-fmod(1,2))+int((1-1)/2)*4*5e-07)/1 \
        pd=((2*8.5e-07+Wp/1)*fmod(1,2)+int(1/2)*4*5e-07)/1 nrd=5e-07/Wp/1 \
        nrs=5e-07/Wp/1 ng=1
    MPC (out C net1 net1) modp w=(2*Wp)/1 l=0.35u \
        as=(8.5e-07*((2*Wp)/1)*(2-fmod(1,2))+int((1-1)/2)*2*5e-07*((2*Wp)/1))/1 \
        ad=(8.5e-07*((2*Wp)/1)*fmod(1,2)+int(1/2)*2*5e-07*((2*Wp)/1))/1 \
        ps=((2*8.5e-07+((2*Wp)/1))*(2-fmod(1,2))+int((1-1)/2)*4*5e-07)/1 \
        pd=((2*8.5e-07+((2*Wp)/1))*fmod(1,2)+int(1/2)*4*5e-07)/1 \
        nrd=5e-07/((2*Wp)/1) nrs=5e-07/((2*Wp)/1) ng=1
    MPB (net1 B vdd! vdd!) modp w=(2*Wp)/1 l=0.35u \
        as=(8.5e-07*((2*Wp)/1)*(2-fmod(1,2))+int((1-1)/2)*2*5e-07*((2*Wp)/1))/1 \
        ad=(8.5e-07*((2*Wp)/1)*fmod(1,2)+int(1/2)*2*5e-07*((2*Wp)/1))/1 \
        ps=((2*8.5e-07+((2*Wp)/1))*(2-fmod(1,2))+int((1-1)/2)*4*5e-07)/1 \
        pd=((2*8.5e-07+((2*Wp)/1))*fmod(1,2)+int(1/2)*4*5e-07)/1 \
        nrd=5e-07/((2*Wp)/1) nrs=5e-07/((2*Wp)/1) ng=1
    MPA (net1 A vdd! vdd!) modp w=(2*Wp)/1 l=0.35u \
        as=(8.5e-07*((2*Wp)/1)*(2-fmod(1,2))+int((1-1)/2)*2*5e-07*((2*Wp)/1))/1 \
        ad=(8.5e-07*((2*Wp)/1)*fmod(1,2)+int(1/2)*2*5e-07*((2*Wp)/1))/1 \
        ps=((2*8.5e-07+((2*Wp)/1))*(2-fmod(1,2))+int((1-1)/2)*4*5e-07)/1 \
        pd=((2*8.5e-07+((2*Wp)/1))*fmod(1,2)+int(1/2)*4*5e-07)/1 \
        nrd=5e-07/((2*Wp)/1) nrs=5e-07/((2*Wp)/1) ng=1
    MNC (net3 C 0 0) modn w=(2*Wn)/1 l=0.35u \
        as=(8.5e-07*((2*Wn)/1)*(2-fmod(1,2))+int((1-1)/2)*2*5e-07*((2*Wn)/1))/1 \
        ad=(8.5e-07*((2*Wn)/1)*fmod(1,2)+int(1/2)*2*5e-07*((2*Wn)/1))/1 \
        ps=((2*8.5e-07+((2*Wn)/1))*(2-fmod(1,2))+int((1-1)/2)*4*5e-07)/1 \
        pd=((2*8.5e-07+((2*Wn)/1))*fmod(1,2)+int(1/2)*4*5e-07)/1 \
        nrd=5e-07/((2*Wn)/1) nrs=5e-07/((2*Wn)/1) ng=1
    MNB (net2 B 0 0) modn w=(4*Wn)/1 l=0.35u \
        as=(8.5e-07*((4*Wn)/1)*(2-fmod(1,2))+int((1-1)/2)*2*5e-07*((4*Wn)/1))/1 \
        ad=(8.5e-07*((4*Wn)/1)*fmod(1,2)+int(1/2)*2*5e-07*((4*Wn)/1))/1 \
        ps=((2*8.5e-07+((4*Wn)/1))*(2-fmod(1,2))+int((1-1)/2)*4*5e-07)/1 \
        pd=((2*8.5e-07+((4*Wn)/1))*fmod(1,2)+int(1/2)*4*5e-07)/1 \
        nrd=5e-07/((4*Wn)/1) nrs=5e-07/((4*Wn)/1) ng=1
    MNA (net3 A net2 net2) modn w=(4*Wn)/1 l=0.35u \
        as=(8.5e-07*((4*Wn)/1)*(2-fmod(1,2))+int((1-1)/2)*2*5e-07*((4*Wn)/1))/1 \
        ad=(8.5e-07*((4*Wn)/1)*fmod(1,2)+int(1/2)*2*5e-07*((4*Wn)/1))/1 \
        ps=((2*8.5e-07+((4*Wn)/1))*(2-fmod(1,2))+int((1-1)/2)*4*5e-07)/1 \
        pd=((2*8.5e-07+((4*Wn)/1))*fmod(1,2)+int(1/2)*4*5e-07)/1 \
        nrd=5e-07/((4*Wn)/1) nrs=5e-07/((4*Wn)/1) ng=1
    MND (out D net3 net3) modn w=(2*Wn)/1 l=0.35u \
        as=(8.5e-07*((2*Wn)/1)*(2-fmod(1,2))+int((1-1)/2)*2*5e-07*((2*Wn)/1))/1 \
        ad=(8.5e-07*((2*Wn)/1)*fmod(1,2)+int(1/2)*2*5e-07*((2*Wn)/1))/1 \
        ps=((2*8.5e-07+((2*Wn)/1))*(2-fmod(1,2))+int((1-1)/2)*4*5e-07)/1 \
        pd=((2*8.5e-07+((2*Wn)/1))*fmod(1,2)+int(1/2)*4*5e-07)/1 \
        nrd=5e-07/((2*Wn)/1) nrs=5e-07/((2*Wn)/1) ng=1
ends ycircuitcustom
// End of subcircuit definition.

// Library name: lab2024
// Cell name: tb_ycircuitcustom
// View name: schematic
I4 (net4 net3 net2 net1 net5) ycircuitcustom Wp=1u Wn=1u
VD (net1 0) vsource type=pulse val0=0 val1=3.3 period=5n delay=0 rise=100p \
        fall=100p width=1n
VC (net2 0) vsource type=pulse val0=0 val1=3.3 period=4n delay=1n \
        rise=100p fall=100p width=1n
VB (net3 0) vsource type=pulse val0=0 val1=3.3 period=2n rise=100p \
        fall=100p width=1n
VA (net4 0) vsource type=pulse val0=0 val1=3.3 period=4n delay=2n \
        rise=100p fall=100p width=1n
C0 (net5 0) capacitor c=10f
V (vdd! 0) vsource dc=3.3 type=dc
simulatorOptions options psfversion="1.4.0" reltol=100e-6 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 homotopy=all limit=delta scalem=1.0 \
    scale=1.0 compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf enable_pre_ver=yes ignorezerovar=yes 
mc1 montecarlo numruns=100 seed=12345 variations=all sampling=standard \
    donominal=yes scalarfile="../monteCarlo/mcdata" \
    paramfile="../monteCarlo/mcparam" saveprocessparams=yes \
    processparamfile="../monteCarlo/processParam" \
    processscalarfile="../monteCarlo/processData" savemismatchparams=no \
    dut=[ I4 ]  paramdumpmode=yes savefamilyplots=yes \
    savedatainseparatedir=yes wfseparation=yes {
tran tran stop=20n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
}
save V:p 
saveOptions options save=allpub
